US07579368B2
In an analogous manner as described in example 29, 5-[4,5-bis-(4-chloro-phenyl)-4,5-dihydro-1H-imidazol-2-yl]-2-chloro-4-ethoxy-N-methyl-benzenesulfonamide was treated with phosgene and diisopropylethylamine in methylene chloride to give 2-(4-chloro-2-ethoxy-5-methylsulfamoyl-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dihydro-imidazole-1-carbonyl chloride. The crude carbamoyl chloride was then reacted with 1-hydroxybenzotriazole hydrate and diisopropylethylamine in methylene chloride to give the racemic 2-(4-chloro-2-ethoxy-5-methylsulfamoyl-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dihydro-imidazole-1-carboxylic acid benzotriazol-1-yl ester after purification by flash column chromatography (silica gel, eluting with a gradient of ethyl acetate in hexanes).

reactant | 5-[4,5-bis-(4-chloro-phenyl)-4,5-dihydro-1H-imidazol-2-yl]-2-chloro-4-ethoxy-N-methyl-benzenesulfonamide | ClC1=CC=C(C=C1)C1N=C(NC1C1=CC=C(C=C1)Cl)C=1C(=CC(=C(C1)S(=O)(=O)NC)Cl)OCC | C24H22Cl3N3O3S
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(4-chloro-2-ethoxy-5-methylsulfamoyl-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dihydro-imidazole-1-carbonyl chloride | ClC1=CC(=C(C=C1S(NC)(=O)=O)C=1N(C(C(N1)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)C(=O)Cl)OCC | C25H21Cl4N3O4S
